US06426345B1
A mixture of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (339 mg), triethylamine (0.18 ml), 4-dimethylaminopyridine (5 mg) and morpholinocarbonyl chloride (0.15 ml) in 1,4-dioxane (4 ml) was stirred at 80° C. for 2 hours. Then the mixture was poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (ethyl acetate) to give 2-benzyl-4-[3-(morpholinocarbonylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (242 mg).

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 339 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | morpholinocarbonyl chloride | 0.15 ml | O1CCN(CC1)C(=O)Cl | C5H8ClNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-4-[3-(morpholinocarbonylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 242 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)N1CCOCC1)N=CC=C2 | C25H23N5O3
